US08609696B2
To a stirred solution of azetidine-3-carboxylic acid hydrochloride salt (1.0 g, 7.27 mmol) in DCM (35 mL) is added di-tert-butyl dicarbonate (1.74 g, 8.0 mmol) followed by triethylamine (2.2 mL, 16 mmol). Stirring is continued at room temperature for 18 h. Solvent is removed under reduced pressure. The residue is redissolved in EtOAc (50 mL), washed with saturated aqueous potassium hydrogen sulphate (10 mL) followed by water (20 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to afford 1.0 g (58%) of 1-(tert-butoxycarbonyl)azetidine-3-carboxylic acid. m/z=146 [M++H-tBu], 187 [M++H-tBu+MeCN].

reactant | azetidine-3-carboxylic acid hydrochloride salt | 7.27 mmol, 1.0 g | Cl.N1CC(C1)C(=O)O
reactant | di-tert-butyl dicarbonate | 8.0 mmol, 1.74 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 16 mmol, 2.2 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
product | 1-(tert-butoxycarbonyl)azetidine-3-carboxylic acid | 1.0 g, 58% | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O | C9H15NO4
